US07157464B2
Synthesis of 2-(4-Chloro-3-trifluoromethyl-5-methyl-pyrazol-1-yl)-1-[4-(5-fluoro-2-methoxy-phenyl)-piperazin-1-yl]-ethanone
Title compound was prepared following the HATU mediated coupling protocol P, wherein 1-(2-Methoxy-5-fluorophenyl)piperazine and (4-Chloro-5-methyl-3-trifluoromethyl-pyrazol-1-yl)-acetic acid were used as the coupling components, to give the product as a solid: 1H NMR (DMSO-d6, 400 MHz) 6.93 (m, 1H), 6.77 (m, 3H), 5.36 (s, 2H), 3.77 (s, 3H), 3.59 (m, 4H), 3.07 (m, 2H), 2.98 (m, 2H), 2.19 (s, 3H) ppm; MS (ES) M+H expect 435.1, found 435.0.

reactant | HATU | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=N2)N=N1.F[P-](F)(F)(F)(F)F
reactant | 1-(2-Methoxy-5-fluorophenyl)piperazine | COC1=C(C=C(C=C1)F)N1CCNCC1 | C11H15FN2O
reactant | (4-Chloro-5-methyl-3-trifluoromethyl-pyrazol-1-yl)-acetic acid | ClC=1C(=NN(C1C)CC(=O)O)C(F)(F)F | C7H6ClF3N2O2
product | 2-(4-Chloro-3-trifluoromethyl-5-methyl-pyrazol-1-yl)-1-[4-(5-fluoro-2-methoxy-phenyl)-piperazin-1-yl]-ethanone | ClC=1C(=NN(C1C)CC(=O)N1CCN(CC1)C1=C(C=CC(=C1)F)OC)C(F)(F)F | C18H19ClF4N4O2
